US05624943
5.2 g of palladium(II) acetate, 77.8 g of potassium carbonate and 72.5 g of tetrabutylammonium bromide are added to a solution of 70 g of 3-benzyloxy-2-iodopyridine and 39.8 ml of acrylic acid methyl ester in 120 ml of dimethylformamide, and the suspension is stirred under argon atmosphere for 10 hours at 100° C. (bath temperature). The reaction mixture is concentrated by evaporation in a vacuum, the residue is added to water and shaken out with ethyl acetate. The organic phase is washed three times with water and once with saturated common salt solution, dried with sodium sulfate and concentrated by evaporation. The crude product is chromatographed on silica gel with hexane/10-25% ethyl acetate. 48.2 g of 3-(3-benzyloxy-2-pyridyl)-(2E)-2-propenoic acid methyl ester is obtained as oil.

reactant | potassium carbonate | 77.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-benzyloxy-2-iodopyridine | 70 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)I | C12H10INO
reactant | acrylic acid methyl ester | 39.8 ml | COC(C=C)=O | C4H6O2
catalyst | tetrabutylammonium bromide | 72.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 5.2 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(3-benzyloxy-2-pyridyl)-(2E)-2-propenoic acid methyl ester | 48.2 g | COC(\C=C\C1=NC=CC=C1OCC1=CC=CC=C1)=O | C16H15NO3
